US07700786B2
Potassium carbonate (3.19 g, 23.1 mmol) and 2,5-difluoronitrobenzene (7.34 g, 46.1 mmol) were added to a solution of 3-hydroxy-5-methylpyrazole (4.52 g, 46.1 mmol) in DMF (80 ml) at room temperature, and the mixture was stirred at room temperature overnight. After completion of the reaction, the reaction mixture was poured into 1N hydrochloric acid (100 ml) and extracted with ethyl acetate (100 ml×2). An organic layer was washed with water (100 ml×2), dried over anhydrous magnesium sulfate and filtered to remove magnesium sulfate, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/3), to give a yellow solid of 3-(4-fluoro-2-nitrophenyloxy)-5-methylpyrazole (5.33 g, yield: 48.8%). mp: 81-84° C.; 1H-NMR (CDCl3, TMS, ppm): δ 2.28 (d, J=0.5 Hz, 3H), 5.71 (d, J=0.5 Hz, 1H), 7.26-7.38 (m, 2H), 7.69 (dd, J=2.8 and 7.9 Hz, 1H), 9.33 (br s, 1H).

reactant | Potassium carbonate | 23.1 mmol, 3.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-difluoronitrobenzene | 46.1 mmol, 7.34 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 3-hydroxy-5-methylpyrazole | 46.1 mmol, 4.52 g | OC1=NNC(=C1)C | C4H6N2O
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 3-(4-fluoro-2-nitrophenyloxy)-5-methylpyrazole | 5.33 g, yield: 48.8% | FC1=CC(=C(C=C1)OC1=NNC(=C1)C)[N+](=O)[O-] | C10H8FN3O3
